US04897489
A procedure similar to Example 1 (a), using 179 mg of (Z)-2-carbamoyl-2-fluorovinylthioacetic acid and 356 mg of benzhydryl ester of a deacetyl compound of TAN-588, gave 358 mg of benzhydryl 2-{(4S)-4-[(Z)-2-carbamoyl-2-fluorovinylthioacetamido]-3-oxo-2-isoxazolidinyl}-5-oxo-2-tetrahydrofurancarboxylate.

reactant | (Z)-2-carbamoyl-2-fluorovinylthioacetic acid | 179 mg | C(N)(=O)C(C(=S)O)\C=C/F | C5H6FNO2S
reactant | benzhydryl 2-[(4S)-4-amino-3-oxo-2-isoxazolidinyl]-5-oxo-2-tetrahydrofurancarboxylate | N[C@@H]1C(N(OC1)C1(OC(CC1)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C21H20N2O6
product | benzhydryl 2-{(4S)-4-[(Z)-2-carbamoyl-2-fluorovinylthioacetamido]-3-oxo-2-isoxazolidinyl}-5-oxo-2-tetrahydrofurancarboxylate | 358 mg | C(N)(=O)C(C(=S)N[C@@H]1C(N(OC1)C1(OC(CC1)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=O)\C=C/F | C26H24FN3O7S
